US06867198B2
3-[1-(4-Bromobutyl)-1H-indol-3-yl]-4-[5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl]pyrrole-2,5-dione
A solution of 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-[1-(4-hydroxybutyl)-1H-indol-3-yl]pyrrole-2,5-dione (0.11 g, 0.25 mmol) and triphenylphosphine (0.08 g, 0.31 mmol) in dichloromethane (3 mL) was treated with carbon tetrabromide (0.095 g, 0.286 mmol) and stirred for 3 hours. The reaction mixture was then concentrated under reduced pressure and the residue subjected to silica gel chromatography, eluting with 2% methanol in dichloromethane. Fractions containing product were combined and concentrated under reduced pressure to provide 0.101 g (80%) of the title compound as a dark red foam.

reactant | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-[1-(4-hydroxybutyl)-1H-indol-3-yl]pyrrole-2,5-dione | 0.25 mmol, 0.11 g | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CN(C3=CC=CC=C23)CCCCO)=O)=O | C27H25N3O3
reactant | triphenylphosphine | 0.31 mmol, 0.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.286 mmol, 0.095 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-[1-(4-Bromobutyl)-1H-indol-3-yl]-4-[5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl]pyrrole-2,5-dione | 0.101 g, 80% | BrCCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN2CCCC3=CC=CC1=C23)=O)=O | C27H24BrN3O2
